US04290947
K-Selectride® (3.64 ml of 0.5 M, 1.82 mmol) is added by syringe to a mixture of potassium iodide (126 mg.,0.758 mmol) and (3S,4R)-1-(t-butyl dimethylsilyl)-3-(1-oxoethyl)-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one (298 mg, 0758 mmol) in freshly distilled ethyl ether (8 ml) at room temperature. The resulting mixture is stirred at room temperature for 2.5 hours, then quenched by the addition of acetic acid (218 mg., 3.64 mmol). The resulting mixture is diluted with ethyl acetate (25 ml) and filtered through celite. Removal of solvents in vacuo gives an oil which is chromatographed on silica gel (ether:petroleum ether) to yield 252 mg of (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one. N.M.R. (R isomer, CDCl3 +D2O) δ4.15(dq,1), δ3.95(ddd,1,J=9.5,2.3), δ3.26(dd,1,J=8,2.3), δ2.37 (m,2), δ2.16(s,9), δ1.37(d,3,J=6,6), δ1.0(s,9), δ0.26(s,6).

reactant | K-Selectride | CCC([BH-](C(CC)C)C(CC)C)C.[K+]
reactant | potassium iodide | 0.758 mmol, 126 mg | [I-].[K+]
reactant | (3S,4R)-1-(t-butyl dimethylsilyl)-3-(1-oxoethyl)-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one | 298 mg | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(SC)(SC)SC)C(C)=O)=O | C16H31NO2S3Si
reactant | acetic acid | 3.64 mmol, 218 mg | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | 8 ml | C(C)OCC | C4H10O
product | (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-[2,2,2-tri(methylthio)ethyl]azetidin-2-one | 252 mg | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(SC)(SC)SC)[C@@H](C)O)=O | C16H33NO2S3Si
